US07960401B2
Lithium bis(trimethylsilyl)amide (1M solution in THF, 3 ml) was added dropwise to a stirred solution of 4-[(3-Bromo-2-chloro-pyridin-4-ylamino)-methyl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (0.53 g) in tetrahydrofuran (20 ml) at −78° C. under N2. The yellow solution was warmed to 0° C. and then 2-chloroisonicotinoyl chloride (50% solution in toluene, 0.95 g) was added. The solution was stirred at 0° C. for 10 min., quenched by addition of aqueous ammonium chloride, extracted with EtOAc, dried (Na2SO4) and concentrated in vacuo. The residue was purified by silica gel chromatography (CH2Cl2 then CH2Cl2/EtOAc 8:2 cyclohexane:ethyl acetate 8:2) to afford 4-{[(3-bromo -2-chloro-pyridin-4-yl)-(2-chloro-pyridine-4-carbonyl)-amino]-methyl }-3,6-dihydro-2H -pyridine-1-carboxylic acid tert-butyl ester (0.63 g), which was identified by its mass and 1H NMR spectra. MS (ES+) 443/445 (MH+—BOC), 484/486 (MH+-isoprene).

reactant | Lithium bis(trimethylsilyl)amide | 1M, 3 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 4-[(3-Bromo-2-chloro-pyridin-4-ylamino)-methyl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.53 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)CNC1=C(C(=NC=C1)Cl)Br | C16H21BrClN3O2
reactant | 2-chloroisonicotinoyl chloride | 0.95 g | ClC=1C=C(C(=O)Cl)C=CN1 | C6H3Cl2NO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-{[(3-bromo -2-chloro-pyridin-4-yl)-(2-chloro-pyridine-4-carbonyl)-amino]-methyl }-3,6-dihydro-2H -pyridine-1-carboxylic acid tert-butyl ester | 0.63 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)CN(C(=O)C1=CC(=NC=C1)Cl)C1=C(C(=NC=C1)Cl)Br | C22H23BrCl2N4O3
